datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>C1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"[H:20][OH:21].C1COCC2=N[N+](=[C-:10]N21)C3=CC=CC=C3>>[H:20][C:10]1=[N+](N=C2N1CCOC2)C3=CC=CC=C3.[OH-:21] 10=20;20,21=21",
"CCNCC[NH:10]CC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCNCC[NH+:10](CC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC[N+:21]1([H:20])CCCC1CNC(=O)c1c([O-])c(Cl)cc(Cl)c1OC.O=C([O-])C1=CC([O-:10])=C(O)C(C(=O)[O-])=[O+]1>>CC[N:21]1CCCC1CNC(=O)c1c([O-])c(Cl)cc(Cl)c1OC.O=C([O-])C1=CC([O:10][H:20])=C(O)C(C(=O)[O-])=[O+]1 10=20;20,21=21",
"COCCNC(=S)[S:21][H:20].COc1cccnc1C(O)[O-:10]>>COCCNC(=S)[S-:21].COc1cccnc1C(O)[O:10][H:20] 10=20;20,21=21",
"COc1ccccc1-c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccccc1-c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)Cc1cc(OC)ccc1[O-:10].c1ccc(Oc2ccc[n+:21]([H:20])c2)cc1>>CCN(CC)Cc1cc(OC)ccc1[O:10][H:20].c1ccc(Oc2ccc[n:21]c2)cc1 10=20;20,21=21",
"Clc1ccc[n+:21]([H:20])c1.O=C1C(c2ccc(F)cc2)=C1[O-:10]>>Clc1ccc[n:21]c1.O=C1C(c2ccc(F)cc2)=C1[O:10][H:20] 10=20;20,21=21",
"COCC(C)C[N+:21](C)(C)[H:20].O=S(Cc1ccccc1)c1ncn[n-:10]1>>COCC(C)C[N:21](C)C.O=S(Cc1ccccc1)c1ncn[n:10]1[H:20] 10=20;20,21=21",
"CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N+:21]2[H:20].C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1ccccc1-c1ccccc1>>CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N:21]2.C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1ccccc1-c1ccccc1)[H:20] 10=20;20,21=21",
"C1CC[NH:10]C1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CC[NH+:10]([H:20])C1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH+:21](C)[H:20].O=C1[C@@H]2C[C@@H](C[N:10]3CCCC[C@@H]23)[C@H]2CCCCN12>>CC(C)(C(=O)[O-])[NH:21]C.O=C1[C@@H]2C[C@@H](C[N+:10]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
"CC(=Cc1ccccc1)CC(=O)[O-:10].O=C(NNc1ccc(Br)cc1)c1cc[n+:21]([H:20])cc1>>CC(=Cc1ccccc1)CC(=O)[O:10][H:20].O=C(NNc1ccc(Br)cc1)c1cc[n:21]cc1 10=20;20,21=21",
"Cc1ccc2c(c1)[n+:21]([H:20])cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.Cc1cccc(C(C)c2c[nH]c[n:10]2)c1C>>Cc1ccc2c(c1)[n:21]cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.Cc1cccc(C(C)c2c[nH]c[n+:10]2[H:20])c1C 10=20;20,21=21",
"O=C1C=CC=CC([O-:10])=C1.O=S(=O)([O-])c1cc([O:21][H:20])cc2cn[nH]c12>>O=C1C=CC=CC([O:10][H:20])=C1.O=S(=O)([O-])c1cc([O-:21])cc2cn[nH]c12 10=20;20,21=21",
"CSCc1cccc[n:10]1.CS[C@H]1CCC[C@@H]1[N+:21](C)(C)[H:20]>>CSCc1cccc[n+:10]1[H:20].CS[C@H]1CCC[C@@H]1[N:21](C)C 10=20;20,21=21",
"C(Cc1nnn[n-]1)NCC[NH:10]CCc1nnn[n-]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C(Cc1nnn[n-]1)NCC[NH+:10](CCc1nnn[n-]1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1cc(C(=O)[O-:10])cs1.c1ccc(C[NH2+:21][H:20])nc1>>CCc1cc(C(=O)[O:10][H:20])cs1.c1ccc(C[NH2:21])nc1 10=20;20,21=21",
"C=C[C@]1(O)C[N+:21]2([H:20])CC[C@H]1C[C@H]2[C@H](O)c1cc([O-])[nH+]c2ccccc12.Oc1ccc(-c2nnn[n-:10]2)cc1>>C=C[C@]1(O)C[N:21]2CC[C@H]1C[C@H]2[C@H](O)c1cc([O-])[nH+]c2ccccc12.Oc1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"CC(=O)c1ccc([O:21][H:20])c2ncccc12.Cc1cc(C)c([NH2:10])cc1C[NH3+]>>CC(=O)c1ccc([O-:21])c2ncccc12.Cc1cc(C)c([NH2+:10][H:20])cc1C[NH3+] 10=20;20,21=21",
"CCCCc1cc(Cl)cc(Cl)c1[O:21][H:20].NCCC[NH:10]CCO>>CCCCc1cc(Cl)cc(Cl)c1[O-:21].NCCC[NH+:10](CCO)[H:20] 10=20;20,21=21",
"C=C(C)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=C(C)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=[N+]([O-])c1[nH]c[n+:21]([H:20])c1Cl.[NH3+]CCCCC#CC#CCCC(=O)[O-:10]>>O=[N+]([O-])c1[nH]c[n:21]c1Cl.[NH3+]CCCCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(CO)C[N+:21](C)(C)[H:20].S=C[N-:10]c1cccc(Cl)c1>>CC(CO)C[N:21](C)C.S=C[N:10](c1cccc(Cl)c1)[H:20] 10=20;20,21=21",
"N[N:21](C(=O)C(F)(F)C(F)(F)C(F)(F)F)[H:20].O=C([C@@H]1CCC[NH2+]1)N1CCC[C@H]1C(=O)[O-:10]>>N[N-:21]C(=O)C(F)(F)C(F)(F)C(F)(F)F.O=C([C@@H]1CCC[NH2+]1)N1CCC[C@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1c(Cl)cc(Cl)c([O:21][H:20])c1C(=O)NC1CC[NH+](C)CC1.C[N:10]1CCC2=C(C1)C(c1ccccc1)c1ccccc12>>COc1c(Cl)cc(Cl)c([O-:21])c1C(=O)NC1CC[NH+](C)CC1.C[N+:10]1([H:20])CCC2=C(C1)C(c1ccccc1)c1ccccc12 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.C[N+:21](C)(c1cccc2ccccc12)[H:20]>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].C[N:21](C)c1cccc2ccccc12 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C[N:10](C)c1ccc(/C=C/c2cc[n+]([O-])cc2)cc1.C[NH+:21]([C@H]1CCCC[C@@H]1O)[H:20]>>C[N+:10](C)(c1ccc(/C=C/c2cc[n+]([O-])cc2)cc1)[H:20].C[NH:21][C@H]1CCCC[C@@H]1O 10=20;20,21=21",
